US07205302B2
2-{4-[N-(4,5-diphenylpyrimidin-2-yl)-N-methylamino]butyloxy}acetic acid tert-butyl ester
In the same manner as in Example 22, except that 4,5-diphenyl-2-(methylamino)pyrimidine was used in place of 5,6-diphenyl-2-(methylamino)pyrazine and 2-(4-bromobutyloxy)acetic acid tert-butyl ester was used in place of 2-(4-bromobutyloxy)acetic acid methyl ester, the desired compound was prepared as a pale yellow oily substance.

reactant | 4,5-diphenyl-2-(methylamino)pyrimidine | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)NC | C17H15N3
reactant | 2-(4-bromobutyloxy)acetic acid tert-butyl ester | C(C)(C)(C)OC(COCCCCBr)=O | C10H19BrO3
product | 2-{4-[N-(4,5-diphenylpyrimidin-2-yl)-N-methylamino]butyloxy}acetic acid tert-butyl ester | C(C)(C)(C)OC(COCCCCN(C)C1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H33N3O3
